US07659305B2
4-(3-fluoro-phenoxymethyl)-pyrroline-1,2-dicarboxylic acid di-tert-butyl ester
To a solution of 4-hydroxymethyl-pyrrolidine-1,2-dicarboxylic acid di-tert-butyl ester (Preparation 42, 500 mg, 1.66 mmol), triphenylphosphine (653 mg, 2.49 mmol) and 3-fluorophenol (0.23 ml, 2.49 mmol) in tetrahydrofuran (30 ml) at 0° C. under a nitrogen atmosphere was added diisopropylazodicarboxylate (0.49 ml, 2.49 mmol) dropwise over 5 minutes and stirred to room temperature over 72 hours. Solvent was removed under reduced pressure and the residue purified by chromatography on silica gel, eluting with 10-15% ethyl acetate/heptane to give the title compound as a mixture of diastereomers (˜5:1 2S,4S:2S,4R) as a colourless oil (370 mg, 51%)

reactant | 4-hydroxymethyl-pyrrolidine-1,2-dicarboxylic acid di-tert-butyl ester | 1.66 mmol, 500 mg | C(C)(C)(C)OC(=O)N1C(CC(C1)CO)C(=O)OC(C)(C)C | C15H27NO5
reactant | triphenylphosphine | 2.49 mmol, 653 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-fluorophenol | 2.49 mmol, 0.23 ml | FC=1C=C(C=CC1)O | C6H5FO
reactant | diisopropylazodicarboxylate | 2.49 mmol, 0.49 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-(3-fluoro-phenoxymethyl)-pyrroline-1,2-dicarboxylic acid di-tert-butyl ester | C(C)(C)(C)OC(=O)N1C(=CC(C1)COC1=CC(=CC=C1)F)C(=O)OC(C)(C)C | C21H28FNO5
